US07034045B1
Preparation of 2-{[4-(1-Hydroxy-1-methyl-2-{[(methylethyl)sulfonyl]amino}ethyl)phenoxy]methyl}benzenecarbonitrile
Into a 250 mL-3 neck flask fitted with a stirrer and thermometer, 400 mg of [2-hydroxy-2-(4-hydroxyphenyl)propyl][(methylethyl)sulfonyl]amine in DMF (10 mL) was added dropwise to 40 mg of NaH in DMF (30 mL) while stirring at room temperature under a nitrogen atmosphere. After stirring at this temperature for 30 minutes, 290 mg of alpha-bromo 2-cyanotoluene in DMF (10 mL) was added dropwise followed by the addition of 184 mg of NaI portion wise. The reaction was then heated at 100° C. for 2 hours. The mixture was cooled to room temperature and poured into H2O and the desired product was extracted with ethyl acetate. This organic layer was washed with H2O, dried over K2CO3, and concentrated under reduced vacuum to yield 612 mg of a brown oil. This material was purified via silica gel chromatography employing the Chromatotron and using a 4000 micron rotor while eluting with a solvent of hexane/ethyl acetate 1:1 to yield intermediate title compound (161 mg, 28%) as a viscous oil. Ion spray M.S. 387.9 (M*−1).

reactant | [2-hydroxy-2-(4-hydroxyphenyl)propyl][(methylethyl)sulfonyl]amine | 400 mg | OC(CNS(=O)(=O)C(C)C)(C)C1=CC=C(C=C1)O | C12H19NO4S
reactant | NaH | 40 mg | [H-].[Na+]
reactant | alpha-bromo 2-cyanotoluene | 290 mg | BrCC1=C(C=CC=C1)C#N | C8H6BrN
reactant | NaI | 184 mg | [Na+].[I-]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | 2-{[4-(1-Hydroxy-1-methyl-2-{[(methylethyl)sulfonyl]amino}ethyl)phenoxy]methyl}benzenecarbonitrile | 612 mg | OC(CNS(=O)(=O)C(C)C)(C)C1=CC=C(OCC2=C(C=CC=C2)C#N)C=C1 | C20H24N2O4S
